US08580794B2
3-chloro-4-isocyanatobenzenesulfonamide
In a round bottom flask containing a solution of phosgene (1.573 mL) in dichloromethane (5 mL) was added 4-amino-3-chlorobenzenesulfonamide (0.206 g) and N-ethyl-N-isopropylpropan-2-amine (0.521 mL). The resulting clear solution was stirred at room temperature overnight. The mixture was concentrated and further dried under vacuum to provide the title compound.

reactant | phosgene | 1.573 mL | C(=O)(Cl)Cl | CCl2O
reactant | 4-amino-3-chlorobenzenesulfonamide | 0.206 g | NC1=C(C=C(C=C1)S(=O)(=O)N)Cl | C6H7ClN2O2S
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.521 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-chloro-4-isocyanatobenzenesulfonamide | ClC=1C=C(C=CC1N=C=O)S(=O)(=O)N | C7H5ClN2O3S
